US08247403B2
(1) tert-butyl 9-propyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-[(1E)-propa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (170 mg, 0.587 mmol) and 10% palladium on carbon (100 mg) in methanol (5 ml) was stirred under a hydrogen atmosphere for 12 hr. The reaction mixture was filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (140 mg, 81.9%) as an oil.

reactant | tert-butyl 9-[(1E)-propa-1-ene-1-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.587 mmol, 170 mg | C(=C\C)/C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H23NO3
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | tert-butyl 9-propyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 140 mg, 81.9% | C(CC)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H25NO3
